US04820726
A solution of 1.9 ml of methyl chlorooxalate in 8 ml of methylene chloride is added dropwise to a solution, cooled to 0°, of 8.3 g of 3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-2-acetoxy-propoxy}-6-methyl-aniline and 2.9 ml of triethylamine in 70 ml of methylene chloride in the course of about 5 minutes and the mixture is then stirred at room temperature for a further 2 hours. The reaction mixture is poured onto ice-water and the organic phase is separated off. The methylene chloride phase is washed with water, dried over sodium sulfate and evaporated under reduced pressure. Methyl N-{{3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-2-acetoxy-propoxy}-6-methyl-phenyl}}-oxamate is thus obtained as an oil with an Rf value=0.13 (silica gel; toluene/ethyl acetate=6:1).

reactant | methyl chlorooxalate | 1.9 ml | C(C(=O)OC)(=O)Cl | C3H3ClO3
reactant | 3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-2-acetoxy-propoxy}-6-methyl-aniline | 8.3 g | C(C)(=O)C1=C(C(=C(OCC(COC=2C=C(N)C(=CC2)C)OC(C)=O)C=C1)CCC(F)(F)F)O | C23H26F3NO6
reactant | triethylamine | 2.9 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | Methyl N-{{3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-2-acetoxy-propoxy}-6-methyl-phenyl}}-oxamate | C(C)(=O)C1=C(C(=C(OCC(COC=2C=C(C(=CC2)C)NC(C(=O)OC)=O)OC(C)=O)C=C1)CCC(F)(F)F)O | C26H28F3NO9
